US06005000
5-[(1,1'-Biphenyl)-4-yl]-3,4-dihydroxy-5-(2-methylpropyl)-2(5H)-furanone
Hydrogenolysis of 350 mg of 5-[(1,1'-biphenyl)-4-yl]-4-hydroxy-3-phenylmethoxy-5-(2-methylpropyl)-2(5H)-furanone was performed in a similar manner as described in the preparation of 3,4-dihydroxy-5-methyl-5-phenyl-2(5H)-furanone to provide 190 mg (69% yield) of a white powder: mp 198-199° C. dec. (CHCl3 /hexanes). 1H NMR (acetone-d6) δ 7.73-7.34 (m, 9H), 2.44-2.28 (m, 1H), 1.50-0.80 (m,8H). 13C NMR (acetone-d6) δ 169.21, 155.47, 140.81, 139.57, 129.17, 127.73, 127.18, 127.08, 126.04, 118.47, 86.01, 40.66, 23.72, 12.11, 11.87. Anal Calcd for C20H20O4 +0.125 H2O: C, 73.55; H, 6.25. Found: C, 73.25; H, 6.36.

reactant | 5-[(1,1'-biphenyl)-4-yl]-4-hydroxy-3-phenylmethoxy-5-(2-methylpropyl)-2(5H)-furanone | 350 mg | C1(=CC=C(C=C1)C1(C(=C(C(O1)=O)OCC1=CC=CC=C1)O)CC(C)C)C1=CC=CC=C1 | C27H26O4
reactant | 3,4-dihydroxy-5-methyl-5-phenyl-2(5H)-furanone | OC=1C(OC(C1O)(C1=CC=CC=C1)C)=O | C11H10O4
product | 5-[(1,1'-Biphenyl)-4-yl]-3,4-dihydroxy-5-(2-methylpropyl)-2(5H)-furanone | 190 mg, 69% yield | C1(=CC=C(C=C1)C1(C(=C(C(O1)=O)O)O)CC(C)C)C1=CC=CC=C1 | C20H20O4
